US08877975B2
(a) Preparation of 1-(3-fluorophenyl)cyclohexanecarbonitrile
The title compound was prepared from 2-(3-fluorophenyl)acetonitrile (2.58 ml, 22.2 mmol) and 1,5-dibromopentane (3.324 ml, 24.4 mmol) according to General Procedure J to yield 1-(3-fluorophenyl)cyclohexanecarbonitrile (4.43 g, 97%) as a clear oil. 1H NMR (CDCl3) δ 1.26-1.39 (m, 1H), 1.76-1.88 (m, 7H), 2.17 (d, J=11.2 Hz, 2H), 6.93-6.98 (m, 1H), 7.04 (d, J=8.0 Hz, 1H), 7.09 (d, J=8.0 Hz, 1H), 7.30-7.35 (m, 1H). 13C NMR (CDCl3) δ 23.7, 25.0, 37.5, 44.6, 122.5, 125.0, 125.1, 126.0, 129.5, 130.0, 142.8.

reactant | 2-(3-fluorophenyl)acetonitrile | 22.2 mmol, 2.58 ml | FC=1C=C(C=CC1)CC#N | C8H6FN
reactant | 1,5-dibromopentane | 24.4 mmol, 3.324 ml | BrCCCCCBr | C5H10Br2
product | 1-(3-fluorophenyl)cyclohexanecarbonitrile | 4.43 g, 97% | FC=1C=C(C=CC1)C1(CCCCC1)C#N | C13H14FN
